US05118697
Step A: Preparation of 2 (5-phenoxypentyl)-2-phenylcyclohexanone
To a mixture of 5 phenoxy pentyl bromide (122.0 g, 0.5 mol) and 2-phenylcyclohexanone (104.4 g, 0.6 mol) in 1.5 L THF, NaH (0.55 mol, 24.0 g) was added portionwise, keeping the temperature between 25° to 30° C. After most of the H2 evolution had ceased, the reaction mixture was heated to reflux for 16 hours under a N2 atmosphere. After cooling to room temperature, 50 mL isopropanol was added and the mixture was concentrated in vacuo to half its volume. This residue was diluted with 2 L ether and 1 L H2O. The layers were separated and the aqueous layer was washed one time with 500 mL ether. The combined organic layers were washed two times each with 500 mL H2O, dried (MgSO4), and concentrated in vacuo to give a solid. Recrystallization from petroleum ether yielded 27.5 g (16.4%), mp 69°-72° C., of the desired product.

reactant | phenoxy pentyl bromide | 0.5 mol, 122.0 g | O(C1=CC=CC=C1)CCCCCBr | C11H15BrO
reactant | 2-phenylcyclohexanone | 0.6 mol, 104.4 g | C1(=CC=CC=C1)C1C(CCCC1)=O | C12H14O
reactant | NaH | 0.55 mol, 24.0 g | [H-].[Na+]
reactant | isopropanol | 50 mL | C(C)(C)O | C3H8O
solvent | THF | 1.5 L | C1CCOC1 | C4H8O
product | (5-phenoxypentyl)-2-phenylcyclohexanone | O(C1=CC=CC=C1)CCCCCC1(C(CCCC1)=O)C1=CC=CC=C1 | C23H28O2
